US04919706
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-4-chloro-2-thiazolesulfonamide (I; Q=Q-3, R3 =Cl, R4 =H, Z=CH, X=Y=OCH3)
To a suspension of 1.6 g of 4-chloro-2-thiazolesulfonamide in 100 ml methylene chloride under a nitrogen atmosphere, 4.4 ml of a 2.0M solution of trimethylaluminum in toluene was added slowly via a syringe. The reaction mixture was stirred 10 minutes; 1.9 g of methyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate was added, and the reaction mixture refluxed for 18 hours. The reaction mixture was cooled to 0°, and 55 ml of 5% hydrochloric acid was added dropwise giving a flocculant solid. The reaction mixture was extracted with 100 ml of ethyl acetate. The organic solution was washed with brine, dried over magnesium sulfate, filtered and the solvent evaporated. The resulting tan solid was slurried in 1-chlorobutane, collected, washed with hexane and dried giving 1.25 g of the title compound as a white solid, m.p. 182°-183°(d). IR: 2.98 and 3.25μ(NH), 5.80μ (C=O).

reactant | 4-chloro-2-thiazolesulfonamide | 1.6 g | ClC=1N=C(SC1)S(=O)(=O)N | C3H3ClN2O2S2
reactant | trimethylaluminum | C[Al](C)C
reactant | methyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 1.9 g | COC1=NC(=NC(=C1)OC)NC(OC)=O | C8H11N3O4
reactant | hydrochloric acid | 55 ml | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-4-chloro-2-thiazolesulfonamide | 1.25 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C=1SC=C(N1)Cl | C10H10ClN5O5S2
